US07354932B2
A Parr shaker flask was charged with 5-azido-5,6,7,8-tetrahydroquinoxaline (1.81 g, 10.33 mmol) and 10% palladium on carbon (10 wt % of Pd/C; 0.18 g). The reaction vessel was evacuated and filled with nitrogen. Methanol (30 mL) was added and the reaction was hydrogenated at 30 psi for 40 minutes. The reaction mixture was flushed with nitrogen and filtered through a plug of Celite® to provide 5,6,7,8-tetrahydroquinoxalin-5-ylamine as an orange liquid (1.54 g, 99%), which would rapidly turn dark brown. It was stored under an argon atmosphere at −20° C. 1H NMR (CDCl3): δ 1.62-1.79 (m, 1H), 1.80-2.18 (m, 4H), 2.18-2.30 (m, 1H), 2.91-3.01 (m, 2H), 4.07 (dd, 1H, J=8.4, 5.4 Hz), 8.32-8.38 (m, 2H); 13C NMR (CDCl3): δ 19.7, 31.7, 32.2, 51.5, 142.0, 142.5, 152.6, 155.4; MS m/z: 150 (M+H+), 133.

reactant | 5-azido-5,6,7,8-tetrahydroquinoxaline | 10.33 mmol, 1.81 g | N(=[N+]=[N-])C1C=2N=CC=NC2CCC1 | C8H9N5
catalyst | palladium on carbon | 0.18 g | [Pd] | Pd
product | 5,6,7,8-tetrahydroquinoxalin-5-ylamine | 1.54 g, 99% | N1=CC=NC=2C(CCCC12)N | C8H11N3
